US06511974B1
6-(1-Methyl-1H-pyrazol-4-yl)-pyridine-3-carboxylic Acid
A suspension of 6-(1-formyl-2-hydroxyvinyl)pyridine-3-carboxylic acid (1.93 g) (Eastman Chemicals) in absolute ethanol (50 ml) and methylhydrazine (0.50 g) was stirred for 18 hours at room temperature. The reaction mixture was filtered to give the product (1.30 g). The filtrate was evaporated to give a solid which was recrystallized from ethyl acetate to give an analytical sample of the title compound (0.55 g), m.p. 262-264° C.

reactant | 6-(1-formyl-2-hydroxyvinyl)pyridine-3-carboxylic acid | 1.93 g | C(=O)C(=CO)C1=CC=C(C=N1)C(=O)O | C9H7NO4
reactant | methylhydrazine | 0.50 g | CNN | CH6N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-(1-Methyl-1H-pyrazol-4-yl)-pyridine-3-carboxylic Acid | 1.30 g | CN1N=CC(=C1)C1=CC=C(C=N1)C(=O)O | C10H9N3O2
